US08476294B2
Stage 224.1.2 2-Amino-5-bromo-N-methyl-nicotinamide
To a solution of 2-amino-5-bromonicotinic acid (Combi-Blocks, San Diego, USA, 1.355 mmol) and triethylamine (0.378 ml) in dichloromethane (10 ml) cooled with an ice-bath was added a solution of trichloromethyl chloroformate (Acros, Basel, Switzerland, 0.677 mmol) in dichloromethane (10 ml). After 40 min stirring at 0° C., was added a solution 8 M of methylamine in EtOH (1.7 ml). The RM was stirred for 30 min at rt then was diluted with dichloromethane, washed with saturated aqueous NaHCO3, with brine, dried over Na2SO4, filtered and evaporated. The residue was taken in DMF and purified by preparative HPLC. The fractions containing product were basified with NaHCO3, concentrated and extracted with dichloromethane (2×). The combined organic layers were washed with brine, dried over Na2SO4, filtered, evaporated and dried under vacuum to give the title compound as a white solid. (HPLC: tR 1.69 min (Method A); M+H=230, 232 MS-ES)

reactant | 2-amino-5-bromonicotinic acid | 1.355 mmol | NC1=C(C(=O)O)C=C(C=N1)Br | C6H5BrN2O2
reactant | triethylamine | 0.378 ml | C(C)N(CC)CC | C6H15N
reactant | trichloromethyl chloroformate | 0.677 mmol | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | methylamine | 8 M | CN | CH5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | EtOH | 1.7 ml | CCO | C2H6O
product | 2-Amino-5-bromo-N-methyl-nicotinamide | NC1=C(C(=O)NC)C=C(C=N1)Br | C7H8BrN3O
